US07247734B2
A solution of 2-methyl resorcinol (1 eq) and p-methoxy phenyl acetic acid (1 eq) in boron trifluoride diethyl etherate (8 eq) was refluxed for 3½ h, whilst stirring, under nitrogen. The brown solution was allowed to cool to room temperature, quenched with NaOAc solution (10% w/v) and left to stand overnight. The resultant precipitate was filtered, washed with water and dried to give 1-(2,4-dihydroxy-3-methyl-phenyl)-2-(4-methoxy-phenyl)-ethanone as a solid.

reactant | 2-methyl resorcinol | 1 eq | CC1=C(O)C=CC=C1O | C7H8O2
reactant | p-methoxy phenyl acetic acid | 1 eq | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | boron trifluoride diethyl etherate | 8 eq | B(F)(F)F.CCOCC
product | 1-(2,4-dihydroxy-3-methyl-phenyl)-2-(4-methoxy-phenyl)-ethanone | OC1=C(C=CC(=C1C)O)C(CC1=CC=C(C=C1)OC)=O | C16H16O4
